US08133907B2
2-[(2S,3R)-3-Amino-4-(2,5-difluoro-phenyl)-2-hydroxy-butyl]-N-tert-butyl-6-trifluoromethyl-nicotinamide
To 10% Pd/C (0.94 g, 0.44 mmoles) in MeOH (40 mL) is added N-tert-Butyl-2-[(2S,3R)-3-dibenzylamino-4-(2,5-difluoro-phenyl)-2-hydroxy-butyl]-6-trifluoromethyl-nicotinamide (5.89 g, 9.42 mmoles) rinsed in with 19 mL of MeOH. To the reaction is added a solution of Formic Acid, Ammonium Salt (2.35 g, 37.4 mmol) in water 6.0 mL and heated to 40° C. for 20 minutes. The reaction is allowed to cool, the catalyst filtered, washed with MeOH and the organics concentrated under reduced pressure. The concentrate is taken up in MTBE and water to which is added NH4OH (pH˜10) and the aqueous layer extracted with MTBE. The organic phase is dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide the title compound.

reactant | N-tert-Butyl-2-[(2S,3R)-3-dibenzylamino-4-(2,5-difluoro-phenyl)-2-hydroxy-butyl]-6-trifluoromethyl-nicotinamide | 9.42 mmoles, 5.89 g | C(C)(C)(C)NC(C1=C(N=C(C=C1)C(F)(F)F)C[C@@H]([C@@H](CC1=C(C=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O)=O | C35H36F5N3O2
reactant | Formic Acid, Ammonium Salt | 37.4 mmol, 2.35 g | [NH4+].C(=O)[O-]
solvent | MeOH | 40 mL | CO | CH4O
solvent | water | 6.0 mL | O | H2O
catalyst | Pd/C | 0.44 mmoles, 0.94 g | [Pd] | Pd
product | 2-[(2S,3R)-3-Amino-4-(2,5-difluoro-phenyl)-2-hydroxy-butyl]-N-tert-butyl-6-trifluoromethyl-nicotinamide | N[C@@H]([C@H](CC1=C(C(=O)NC(C)(C)C)C=CC(=N1)C(F)(F)F)O)CC1=C(C=CC(=C1)F)F | C21H24F5N3O2
